US05338739
3-(1-Benzoyl-2-pyrrolidinyl)phenyl methylcarbamate
To a solution of 3-[1-benzoyl-2-pyrrolidinyl]phenol (0.69 g) in dry tetrahydrofuran (35 ml) was added methyl isocyanate (0.16 ml) followed by milled potassium carbonate (0.46 g) at ambient temperature, under nitrogen. The reaction mixture was stirred for 22 hrs, at which time it was filtered through a pad of celite, and the solids washed with ethyl acetate. The combined filtrates were concentrated. Recrystallization of the residue from ethyl acetate afforded 0.50 g (60%) of product, mp 117°-121° C.

reactant | 3-[1-benzoyl-2-pyrrolidinyl]phenol | 0.69 g | C(C1=CC=CC=C1)(=O)N1C(CCC1)C=1C=C(C=CC1)O | C17H17NO2
reactant | methyl isocyanate | 0.16 ml | CN=C=O | C2H3NO
reactant | potassium carbonate | 0.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 3-(1-Benzoyl-2-pyrrolidinyl)phenyl methylcarbamate | 0.50 g, 60% | CNC(OC1=CC(=CC=C1)C1N(CCC1)C(C1=CC=CC=C1)=O)=O | C19H20N2O3
